US07521461B2
Methyl 2-{[4-(3-{4-[(methylsulfonyl)oxy]phenoxy}propyl)phenoxy]methyl}benzoate (0.38 g, 0.81 mmol) was dissolved in a mixture of THF/water (7/1, 4 ml) and lithium hydroxide (9.3 mg, 0.39 mmol) was added. The reaction was performed in a single node microwave oven (7 min, 150° C.). The reaction mixture was acidified (HCl, 1 M, 1 ml) and the water phase was washed with two portions of EtOAc (2×5 ml). The organic phases were combined, dried (MgSO4) and the solvent was removed by evaporation The crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min)). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). Removing the solvent by evaporation gave 88 mg of 2-{[4-(3-{4-[(methylsulfonyl)oxy]phenoxy}propyl)phenoxy]-methyl}benzoic acid (yield 23.7%).

reactant | Methyl 2-{[4-(3-{4-[(methylsulfonyl)oxy]phenoxy}propyl)phenoxy]methyl}benzoate | 0.81 mmol, 0.38 g | CS(=O)(=O)OC1=CC=C(OCCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C25H26O7S
reactant | lithium hydroxide | 0.39 mmol, 9.3 mg | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF water | 4 ml | C1CCOC1.O
product | 2-{[4-(3-{4-[(methylsulfonyl)oxy]phenoxy}propyl)phenoxy]-methyl}benzoic acid | 88 mg, yield 23.7% | CS(=O)(=O)OC1=CC=C(OCCCC2=CC=C(OCC3=C(C(=O)O)C=CC=C3)C=C2)C=C1 | C24H24O7S
